US05708101
6,-tert-butyl-fulvene was prepared analogously by reaction of cyclopentadiene (31.7 g, 480 mmole), pivaldehyde (19.825 g, 230 mmol), and pyrrolidine (25 ml, 300 mmole) in methanol (250 ml). The yellow oil is kugel-rohr distilled at 70° C. and <1 torr yielding a bright yellow oil; 20.5 g (66.4%).

reactant | cyclopentadiene | 480 mmole, 31.7 g | C1=CC=CC1 | C5H6
reactant | pivaldehyde | 230 mmol, 19.825 g | CC(C)(C)C=O | C5H10O
reactant | pyrrolidine | 300 mmole, 25 ml | N1CCCC1 | C4H9N
solvent | methanol | 250 ml | CO | CH4O
product | tert-butyl-fulvene | C(C)(C)(C)C1=CC=CC1=C | C10H14
